US05213606
Preparation of 2-(p-Hydroxyphenoxy)propionaldehyde
A mixture of 2-[p-(benzyloxy)phenoxy]propionaldehyde (34.6 g, 0.135 mol) and 5% Pd on carbon (2.0 g) in ethanol (250 mL) is placed on a Parr hydrogenerator. Over 5 hours, the pressure drops from 37 psi to 28 psi. The reaction mixture is then filtered through celite and concentrated in vacuo to obtain a dark yellow syrup. Flash chromatography of the syrup using silica gel and eluting with methylene chloride followed by 1% to 10% ethyl acetate in methylene chloride gives the title product as a dark yellow syrup (8.2 g) which is identified by 1H NMR spectral analysis.

reactant | 2-[p-(benzyloxy)phenoxy]propionaldehyde | 0.135 mol, 34.6 g | C(C1=CC=CC=C1)OC1=CC=C(OC(C=O)C)C=C1 | C16H16O3
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 2.0 g | [Pd] | Pd
product | 2-(p-Hydroxyphenoxy)propionaldehyde | 8.2 g | OC1=CC=C(OC(C=O)C)C=C1 | C9H10O3
